US06413938B1
5,6-Dichloro-1-(2,5-dideoxy-2-fluoro-beta-D-ribofuranosyl)-N-(1-methylethyl)-1H-benzimidazol-2-amine
2-Bromo-5,6-dichloro-1-(2,5-dideoxy-2-fluoro-beta-D-ribofuranosyl)-1H-benzimidazole (0.075 g, 0.2 mmoles) was heated in a solution of isopropylamine (Fluka, 2 mL) and absolute ethanol (6 mL) in a 90° C. oil bath for 18 hrs. The solvents were removed in vacuo. The residue was partitioned between water and ethyl acetate. The ethyl acetate solution was dried with MgSO4, filtered and solvent removed in vacuo to give the product (0.06 g) in 85% yield. MS (APCl+): m+1/z, 362; 1H NMR (DMSO-6) δ7.39 (s, 1H, Ar—H), 7.18 (s, 1H, Ar—H), 6.94 (d, 1H, NH, J=7 Hz), 6.09 (d, 1H, H-1′, J=19 Hz), 5.72 (d, 1H, OH-3′, J=6 Hz), 5.26 (d, 1H, H-2′, J=53 Hz), 3.9 (m, 3H,), 1.35 (d, 3H, H-5′, J=6 Hz), 1.18 (m, 6H, CH3).

reactant | 2-Bromo-5,6-dichloro-1-(2,5-dideoxy-2-fluoro-beta-D-ribofuranosyl)-1H-benzimidazole | 0.2 mmoles, 0.075 g | BrC1=NC2=C(N1[C@H]1[C@@H]([C@H](O)[C@H](O1)C)F)C=C(C(=C2)Cl)Cl | C12H10BrCl2FN2O2
reactant | isopropylamine | 2 mL | C(C)(C)N | C3H9N
solvent | ethanol | 6 mL | C(C)O | C2H6O
product | 5,6-Dichloro-1-(2,5-dideoxy-2-fluoro-beta-D-ribofuranosyl)-N-(1-methylethyl)-1H-benzimidazol-2-amine | 0.06 g, 85% yield | ClC1=CC2=C(N(C(=N2)NC(C)C)[C@H]2[C@@H]([C@H](O)[C@H](O2)C)F)C=C1Cl | C15H18Cl2FN3O2
